US08198453B2
To a solution of (S)-tert-butyl 4-((R)-5-tert-butoxy-5-oxo-2-(tosyloxymethyl)pentyl)-2,2-dimethyloxazolidine-3-carboxylate (317 mg, 0.58 mmol) in anhydrous DCM (8 mL) at −78° C. under N2 was added DiBAlH (1 M in hexane, 1.75 mL, 1.75 mmol) dropwise. After the addition, the reaction mixture was stirred for another 30 min. The reaction was quenched with MeOH (2 mL), followed by 50% Rochelle's salt aq solution and stirred 2 hr. The resulting solution was extracted with DCM (3×20 mL), the combined organic phases were concentrated and dissolved in THF/MeOH (10 mL, 4/1, v/v), and chilled to 0° C., NaBH4 (11 mg, 0.29 mmol) was added and stirred at this temperature for 30 min. The reaction was quenched by aqueous NH4Cl, then extracted with EtOAc (3×20 mL), the combined organic phases were washed with H2O, brine, and dried over Na2SO4, and filtered, and concentrated to give crude product (S)-tert-butyl 4-((R)-5-hydroxy-2-(tosyloxymethyl)pentyl)-2,2-dimethyloxazolidine-3-carboxylate (255 mg, 92%). It was used without further purification.

reactant | (S)-tert-butyl 4-((R)-5-tert-butoxy-5-oxo-2-(tosyloxymethyl)pentyl)-2,2-dimethyloxazolidine-3-carboxylate | 0.58 mmol, 317 mg | C(C)(C)(C)OC(CC[C@H](C[C@@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C)COS(=O)(=O)C1=CC=C(C)C=C1)=O | C27H43NO8S
reactant | DiBAlH | 1.75 mmol, 1 M, 1.75 mL | CC(C)C[AlH]CC(C)C
reactant | NaBH4 | 0.29 mmol, 11 mg | [BH4-].[Na+]
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
product | (S)-tert-butyl 4-((R)-5-hydroxy-2-(tosyloxymethyl)pentyl)-2,2-dimethyloxazolidine-3-carboxylate | 255 mg, 92% | OCCC[C@H](C[C@@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C)COS(=O)(=O)C1=CC=C(C)C=C1 | C23H37NO7S
